US05108840
The monomer 1,4-bis(1-naphthoxy)tetrafluorobenzene (4FNE) was prepared as follows. A 100 mL round bottom flask equipped with a magnetic stirrer was charged with hexafluorobenzene (3.53 g, 0.0190 mole), 1-naphthol, and DMAc (50 mL). After the solids dissolved, potassium carbonate (6.50 g, 0.048 mole) was added and the mixture was heated at about 140° C. for 2 hr. The mixture was then cooled to room temperature, filtered, and poured into toluene (150 mL). The toluene solution was washed twice with water (2×150 mL) and concentrated by rotary evaporation to yield an off-white powder (7.91 g). Analysis of the powder by GC showed a mixture of isomers (2% ortho, 8% meta, and 90% para). The powder was recrystallized from a mixture of N,N-dimethylformamide (DMF) and water to yield the desired all-para 4FNE, GC/MS (m+ /e 434).

reactant | hexafluorobenzene | 0.0190 mole, 3.53 g | FC1=C(C(=C(C(=C1F)F)F)F)F | C6F6
reactant | 1-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | potassium carbonate | 0.048 mole, 6.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMAc | 50 mL | CC(=O)N(C)C | C4H9NO
product | 1,4-bis(1-naphthoxy)tetrafluorobenzene | C1(=CC=CC2=CC=CC=C12)OC1=C(C(=C(C(=C1F)F)OC1=CC=CC2=CC=CC=C12)F)F | C26H14F4O2
